US04435406
21.8 g of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2,3-naphthalenediamine were suspended in 120 ml of alcohol in a 250 ml sulfonation flask equipped with stirrer, thermometer, dropping funnel and reflux condenser. There were added dropwise thereto firstly a solution of 6.3 g of potassium hydroxide in 20 ml of water and, after stirring at room temperature for 1 hour, 8.9 g (d=1.2705) of carbon disulfide. After an additional hour, the solution was stirred and then boiled at reflux overnight. After adding 11.3 g of potassium hydroxide in 45 ml of water, the mixture was stirred for an additional 1 hour. The hot solution was then filtered through a carbon filter and the filtrate was diluted with 120 ml of water. To this was added dropwise at 60°-70° C. 60 ml of 50% acetic acid and the mixture was stirred at this temperature for an additional 1 hour. The cold suspension was suction filtered and the material on the suction filter was recrystallized from isopropanol. There were obtained 22.7 g (87.5% of theory) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-1H-naphth(2,3-d)imidazole-2-thiol of melting point above 300° C.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2,3-naphthalenediamine | 21.8 g | CC1(C=2C=C(C(=CC2C(CC1)(C)C)N)N)C | C14H22N2
reactant | potassium hydroxide | 6.3 g | [OH-].[K+]
reactant | carbon disulfide | 8.9 g | C(=S)=S | CS2
reactant | potassium hydroxide | 11.3 g | [OH-].[K+]
solvent | water | 20 ml | O | H2O
solvent | water | 45 ml | O | H2O
product | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-1H-naphth(2,3-d)imidazole-2-thiol | 22.7 g, 87.5% | CC1(C2=CC3=C(NC(=N3)S)C=C2C(CC1)(C)C)C | C15H20N2S
